US05965741
Ethyl 2-bromomethyl-5-thiazolecarboxylate
A solution of ethyl 2-methyl-5-thiazole carboxylate [S. H Mashragui, P. M. Keehn, JACS 104 4461-4465 (1982)] (4.73 g, 27.68 mmol) in carbon tetrachloride (30 ml) was treated with N-bromosuccinimide (4.92 g, 27.64 mmol) and benzoyl peroxide (0.03 g). The reaction mixture was heated to reflux under a strong light for 11/4 hours. The reaction was allowed to cool to ambient temperature and filtered. The filtrate was evaporated and subjected to chromatography (CH2Cl2) to give the title product (1.16 g, 17%). NMR (200 MH2,DMSO-d6) : δ8.4 (s, 1H) , 5.06 (s, 2H) , 4.33 (g, 2H), 1.3 (t, 3H).

reactant | ethyl 2-methyl-5-thiazole carboxylate | 27.68 mmol, 4.73 g | CC=1SC(=CN1)C(=O)OCC | C7H9NO2S
reactant | N-bromosuccinimide | 27.64 mmol, 4.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.03 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Ethyl 2-bromomethyl-5-thiazolecarboxylate | 1.16 g, 17% | BrCC=1SC(=CN1)C(=O)OCC | C7H8BrNO2S
